US09108939B2
A: 4-(2-Bromo-4-nitrophenoxy)piperidine
tert-Butyl 4-(2-bromo-4-nitrophenoxy)piperidine-1-carboxylate (12.21 mmol, 4.9 g) was dissolved in dichloromethane (40 mL) and trifluoroacetic acid (73.3 mmol, 8.35 g) added. The mixture was stirred at room temperature for 3 hours before concentrating under reduced pressure. The resulting residue was dissolved in dichloromethane (150 mL) and washed with a saturated solution of sodium bicarbonate (3×50 mL). The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford the title compound (3.3 g).

reactant | tert-Butyl 4-(2-bromo-4-nitrophenoxy)piperidine-1-carboxylate | 12.21 mmol, 4.9 g | BrC1=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C16H21BrN2O5
reactant | trifluoroacetic acid | 73.3 mmol, 8.35 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(2-Bromo-4-nitrophenoxy)piperidine | 3.3 g | BrC1=C(OC2CCNCC2)C=CC(=C1)[N+](=O)[O-] | C11H13BrN2O3
